Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Senna / lisinopril / losartan
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Left Heart Catheterization

 
History of Present Illness:
___ yo F w/ hx of CAD with cath in ___ showing diffuse but 
nonobstructive disease transferred from ___ for cath 
after presenting with chest pain. Patient began to have 
exertional chest and shoulder pain about one month ago. She had 
a stress echo ___ which showed no significant findings on TTE 
and no anginal sx but EKH with borderline ischemia. Around 0400 
prior to day of admission, patient was awoken by chest pain 
which last for several hours and improved but did not resolve so 
she presented to ED at ___. While in ED, pain worsened so 
she received ASA 81, SL nitro x3, and 4mg IV morphine with 
resolution of sx. Troponins were negative without significant 
EKG findings so no hep gtt was started. Given stress findings, 
she was sent to ___ for cath in AM. While at ___ 
54-73, BP 122/69-172/84.  
On the floor, patient has no complaints except for baseline 
mechanical shoulder pain.  
Review of Systems: As per HPI, otherwise negative.
 
Past Medical History:
1. Hypertension, labile (carvedilol, HCTZ).  
2. Hyperlipidemia, off statin (9.14 TC282.TG215.H52.L187)  
3. Non-obstructive CAD, ETT MIBI 7.09-reversible mid-distal AW  
defect; 20% LMCA; 20% LAD; 50% D1; 30% D2 (cath 8.09)  
4. Obesity. BMI 38  
5. Family history of premature coronary disease.  
6. Glucose intolerance, A1C 6.2 (9.14)  
 
Relevant Medical Issues:  
--GERD (burning, posterior throat).  
--Chronic headaches.  
--Intermittent non-adherence to medications  
 
Social History:
___
Family History:
Father with MI, unknown age
 
Physical Exam:
Admission Physical Exam (___):
Vitals - T:97.8 BP: 161/89 HR: 55 RR: 18 02 sat: 98%RA  
GENERAL: Well appearing woman lying in bed in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: unable to assess ___ habitus  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Pain with rotation of left shoulder.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, AAOx3, motor and sensory exam grossly 
intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge Physical Exam (___):
Vitals - T97.3 BP131/60 HR70 RR18 SPO2:100%RA
GENERAL: Well appearing woman lying in bed in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: unable to assess ___ habitus  
CARDIAC: RRR, S1/S2, no murmurs, gallops 
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Pain with rotation of left shoulder.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, AAOx3, motor and sensory exam grossly 
intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
___ 10:45AM BLOOD WBC-8.7 RBC-4.77 Hgb-14.4 Hct-44.0 MCV-92 
MCH-30.3 MCHC-32.8 RDW-12.7 Plt ___
___ 10:45AM BLOOD Plt ___
___ 10:45AM BLOOD ___ PTT-33.6 ___
___ 08:02AM BLOOD Glucose-112* UreaN-11 Creat-0.6 Na-138 
K-4.3 Cl-98 HCO3-27 AnGap-17
___ 08:02AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.1

L Heart Catheterization (___) coronary angiography:  right 
dominant
LMCA:  20% mid
LAD:  mid 50%, otherwise mild luminal irregularities
LCX:  diffuse distal OM2 to 40%
RCA:  ostial catheter-induced spasm that resolved with IC
nitroglycerin, otherwise no angiographically apparent disease
 
Brief Hospital Course:
___ y/o F w/ hx of CAD with cath in ___ showing diffuse but 
nonobstructive disease transferred from ___ for cath 
after presenting with chest pain. She had a stress echo ___ 
which showed no significant findings on TTE and no anginal sx 
but EKH with borderline ischemia. CP in the ED was relieved with 
nitrox3 + morphine. No ECG changes were noted. Troponins 
negative. Upon arrival she was chest pain free, however was 
complaining of shoulder pain. Due to concern for cardiac 
disease, a left heart catheterization was performed using R 
radial access which demonstrated LMCA: 20% mid LAD: mid 50%, 
otherwise mild luminal irregularities, LCX: diffuse distal OM2 
to 40%, RCA: ostial catheter-induced spasm that resolved with IC 
nitroglycerin, otherwise no angiographically apparent disease. 
No intervention was performed. 

It was suspected that her chest pain was not cardiac in etiology 
and discharged without changes to her medications.

Transition issues:
[]Discuss with primary care provider of further workup/treatment 
of noncardiac chest pain
[]If Rosuvastatin is not covered by insurance, she should be on 
an alternative statin per her outpatient providers

# Code: Full 
# Emergency Contact: ___ husband ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 25 mg PO QAM 
2. Carvedilol 12.5 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lorazepam 0.5 mg PO QHS:PRN insomnia 
5. Aspirin 81 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. aloe ___ unknown  topical unknown 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 25 mg PO QAM 
3. Carvedilol 12.5 mg PO QPM 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Lorazepam 0.5 mg PO QHS:PRN insomnia 
7. Vitamin D ___ UNIT PO DAILY 
8. aloe ___ 1 oz TOPICAL Frequency is Unknown 
9. Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin [Crestor] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Atypical Chest Pain

Secondary Diagnoses: Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were recently hospitalized at the ___ 
___ for chest pain.  We performed a few tests to look 
at the heart and determine if this was the source of your pain.  
We looked at the electrical circuitry of the heart with an 
electrocardiogram, which was normal!  We collected samples of 
your blood to look for a specific protein, known as troponin, 
that gets released when the heart is damaged.  This was normal!  
We then performed a cardiac catheterization, which looks at the 
vessels surrounding the heart.  This was also normal!  
Fortunately, this means that your chest pain is not due to heart 
disease.

We suggest that you follow up with your primary care provider 
and cardiologist regarding these results.  You have an 
appointment on ___ with Dr. ___ at 3pm.

You should also follow up with your primary care provider, and 
we are in the process of arranging an appointment with them.  If 
you do not hear from them within the next week, please call 
their office.

It was a pleasure taking care of you.
Your ___ cardiology team
 
Followup Instructions:
___